US06977264B2
Step (b) N-[(1R)-1-[(4-Chlorophenyl)methyl]-2-(4-{2-[(methylsulfonyl)amino]phenyl}piperidyl)-2-oxoethyl]-2-(4-piperidyl)acetamide
The title compound was prepared according to the procedure described in Example 3, Step (b) from tert-butyl 4-({N-[(1R)-1-[(4-chlorophenyl)methyl]-2-(4-(2-[(methylsulfonyl)-amino]phenyl}piperidyl)-2-oxoethyl]-carbamoyl)methyl)-piperidinecarboxylate (Step a) (330 mg, 0.5 mmol) and 50% TFA in CH2Cl2 (20 mL). Purification by preparative reverse phase HPLC [Phenomenex; 5 μm 250×21.2 mm, 5% to 95% CH3CN (0.1% TFA) in H2O (0.1% TFA) over 30 min, then 100% CH3CN (0.1% TFA) for 2 min] provided the title compound (TFA salt) as a white foam (242 mg). MS (EST, pos. ion) m/z: 561 (M+1); (ESI, neg. ion) m/z: 559 (M−1). Calc'd for C28H37ClN4O4S: 560.22. Anal. Calcd for C28H37ClN4O4S.1.6C2HF3O2: C, 50.40; H, 5.23; N, 7.53. Found: C, 50.54; H, 5.53; N, 7.75.

reactant | tert-butyl 4-({N-[(1R)-1-[(4-chlorophenyl)methyl]-2-(4-(2-[(methylsulfonyl)-amino]phenyl}piperidyl)-2-oxoethyl]-carbamoyl)methyl)-piperidinecarboxylate | ClC1=CC=C(C=C1)C[C@H](C(=O)N1CCC(CC1)C1=C(C=CC=C1)NS(=O)(=O)C)NC(=O)CC1CCN(CC1)C(=O)OC(C)(C)C | C33H45ClN4O6S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-[(1R)-1-[(4-Chlorophenyl)methyl]-2-(4-{2-[(methylsulfonyl)amino]phenyl}piperidyl)-2-oxoethyl]-2-(4-piperidyl)acetamide | 242 mg | ClC1=CC=C(C=C1)C[C@H](C(=O)N1CCC(CC1)C1=C(C=CC=C1)NS(=O)(=O)C)NC(CC1CCNCC1)=O | C28H37ClN4O4S
